US05783704
1-Amino-3,4-dimethyl-1,3-dihydroimidazol-2-one (Compound 2.121 in Table 2)
2 g of hydrazine hydrate are added to a solution of 2 g of 3,4-dimethyl-1-(pyridin-3-ylmethyleneamino)-2,3-dihydroimidazol-2-one in 12 ml of methanol and the suspension is boiled under reflux for 6 hours, then concentrated by evaporation and chromatographed on silica gel. 1 g of pyridine-3-carbaldehyde hydrazone and 0.7 g of the title compound having a melting point of 115°-119° are thus obtained.

reactant | hydrazine hydrate | 2 g | O.NN
reactant | 3,4-dimethyl-1-(pyridin-3-ylmethyleneamino)-2,3-dihydroimidazol-2-one | 2 g | CN1C(N(C=C1C)N=CC=1C=NC=CC1)=O | C11H12N4O
solvent | methanol | 12 ml | CO | CH4O
product | 1-Amino-3,4-dimethyl-1,3-dihydroimidazol-2-one | NN1C(N(C(=C1)C)C)=O | C5H9N3O
